US07521462B2
Triethylamine (1.8 ml, 12.8 mmol) and 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (0.5 g, 3.2 mmol) is added to a stirred solution of 4-isobutylamino-piperidine-1-carboxylic acid tert-butyl ester (0.82 g, 3.2 mmol), and diethyl ether (30 ml). The reaction is stirred for 5 minutes at room temperature. The reaction is poured into 5% citric acid and extracted with ethyl acetate. The ethyl acetate is washed with sodium bicarbonate and brine and dried over sodium sulfate. The sodium sulfate is filtered off and the crude product is concentrated on a rotary evaporator to yield (1.15 g, 96% crude) of 4-{[(1,3-dimethyl-1H-pyrazol-5-yl)-carbonyl]-isobutyl-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=379 (M++1); 1H NMR (CD3OD) (broad peaks due to rotamers) δ=6.29-6.17 (1H, br m), 4.23-4.10 (2H, br m), 3.98-3.90 (1H, br m), 3.78 (3H, br s), 3.25 (2H, d), 2.89-2.57 (2H, br m), 2.25 (3H, s), 2.20-2.04 (1H, br m), 1.86-1.70 (3H, br m), 1.46 (9H, s), 1.00-0.74 (6H, br m).

reactant | Triethylamine | 12.8 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 3.2 mmol, 0.5 g | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | 4-isobutylamino-piperidine-1-carboxylic acid tert-butyl ester | 3.2 mmol, 0.82 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(C)C | C14H28N2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 4-{[(1,3-dimethyl-1H-pyrazol-5-yl)-carbonyl]-isobutyl-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.15 g, 96% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC(C)C)C(=O)C1=CC(=NN1C)C | C20H34N4O3
